US05563141
To a solution of 4-chloroquinoline (3 g) in mixed xylenes (b.p. 137°-144° C.) (25 ml) was added 1-benzylpiperazine (6.46 g). The mixture was heated to reflux with stirring for 20 hours then cooled to room temperature. The precipitate that formed was filtered and washed with xylene. To the combined filtrate and washings was added decolourising charcoal and the mixture was heated to reflux for 20 minutes, cooled and filtered through kieselguhr. The filtrate was evaporated to dryness to yield 1-benzyl-4-(4-quinolinyl)piperazine (4.55 g) as a yellow solid: m.p. 105°-106° C.; NMR (CDCl3) δ2.75 (4H, m), 3.26 (4H, m), 3.66 (2H, s), 6.84 (1H, d), 7.35 (5H, m), 7.45 (1H, m), 7.65 (1H, m), 8.03 (2H, m), 8.73 (1H, m); m/Z 304 (M+H)+.

reactant | 4-chloroquinoline | 3 g | ClC1=CC=NC2=CC=CC=C12 | C9H6ClN
reactant | 1-benzylpiperazine | 6.46 g | C(C1=CC=CC=C1)N1CCNCC1 | C11H16N2
product | 1-benzyl-4-(4-quinolinyl)piperazine | 4.55 g | C(C1=CC=CC=C1)N1CCN(CC1)C1=CC=NC2=CC=CC=C12 | C20H21N3
